US07598376B2
10.6 g of finely pulverised 85% potassium hydroxide are introduced into a solution of 9.3 g of N,N′-diacetylhydrazine and 141 g of dimethyl sulfoxide in such a manner that a temperature of 33° C. is not exceeded. After heating to 80 to 85° C., 23 g of 2,2′-dichlorodiethyl ether are added dropwise to the reaction mixture over the course of 50 minutes. The resulting highly fluid suspension is maintained at 80 to 85° C. for 3 hours, then cooled to 20 to 25° C. and filtered, and the filtration residue is washed with dimethyl sulfoxide. 11.4 g (76.0%) of 4,5-diacetyl-[1,4,5]-oxadiazepine are obtained from the combined filtrates by concentration by evaporation.

reactant | potassium hydroxide | [OH-].[K+]
reactant | N,N′-diacetylhydrazine | 9.3 g | C(C)(=O)NNC(C)=O | C4H8N2O2
reactant | 2,2′-dichlorodiethyl ether | 23 g | C(CCl)OCCCl | C4H8Cl2O
solvent | dimethyl sulfoxide | 141 g | CS(=O)C | C2H6OS
product | 4,5-diacetyl-[1,4,5]-oxadiazepine | 11.4 g, 76.0% | C(C)(=O)N1C=COC=CN1C(C)=O | C8H10N2O3
